US07964623B2
7-Methoxymethoxy-2,2-dimethyl-6-nitro-4-(2-phenylethylamino)-3,4-dihydro-2H-1-benzopyrane
To a solution of 3,4-epoxy-7-methoxymethoxy-2,2-dimethyl-6-nitro-3,4-dihydro-2H-1-benzopyrane (332 mg, 1.18 mmol) in dioxane (1.3 mL), lithium perchlorate (126 mg, 1.18 mmol) and phenylethylamine (214 mg, 1.77 mmol) were added at room temperature, and the resulting mixture was stirred for 2 hours. Upon the completion of the reaction, saturated sodium hydrogencarbonate aqueous solution was added thereto, the resulting solution was extracted with ethyl acetate, washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=3/1) and the aimed product was obtained (yield: 73%).

reactant | 3,4-epoxy-7-methoxymethoxy-2,2-dimethyl-6-nitro-3,4-dihydro-2H-1-benzopyrane | 1.18 mmol, 332 mg | O1C2C(OC3=C(C21)C=C(C(=C3)OCOC)[N+](=O)[O-])(C)C | C13H15NO6
reactant | lithium perchlorate | 1.18 mmol, 126 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | phenylethylamine | 1.77 mmol, 214 mg | C1(=CC=CC=C1)CCN | C8H11N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 1.3 mL | O1CCOCC1 | C4H8O2
product | 7-Methoxymethoxy-2,2-dimethyl-6-nitro-4-(2-phenylethylamino)-3,4-dihydro-2H-1-benzopyrane | yield: 73% | COCOC1=CC2=C(C(CC(O2)(C)C)NCCC2=CC=CC=C2)C=C1[N+](=O)[O-] | C21H26N2O5
